US08383821B2
(3-Chloro-5-(trifluoromethyl)phenyl)methanol.
(3-Amino-5-(trifluoromethyl)phenyl)methanol (1.0 g, 5.23 mmol) in dry acetonitrile (6 mL) was added dropwise to a solution of copper (II) chloride (0.83 g, 6.2 mmol) and tert-butyl nitrite (0.9 mL, 7.5 mmol) in acetonitrile (6 mL) at 65° C. After 30 min at 65° C., the reaction mixture was cooled to room temperature, poured into a 1 N hydrochloric acid solution, and extracted with ethyl acetate (2×). The organic layers were pooled together, washed with brine (2×), dried over sodium sulfate, and concentrated. Column chromatography on silica gel (30% ethyl acetate/hexanes) afforded 0.8 g (73%). 1H-NMR (CDCl3, 500 MHz) δ 7.54 (s, 1H), 7.52 (s, 1H), 7.50 (s, 1H), 4.74 (s, 2H).

reactant | (3-Amino-5-(trifluoromethyl)phenyl)methanol | 5.23 mmol, 1.0 g | NC=1C=C(C=C(C1)C(F)(F)F)CO | C8H8F3NO
reactant | tert-butyl nitrite | 7.5 mmol, 0.9 mL | N(=O)OC(C)(C)C | C4H9NO2
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | acetonitrile | 6 mL | C(C)#N | C2H3N
solvent | acetonitrile | 6 mL | C(C)#N | C2H3N
catalyst | copper (II) chloride | 6.2 mmol, 0.83 g | [Cu](Cl)Cl
product | (3-Chloro-5-(trifluoromethyl)phenyl)methanol | ClC=1C=C(C=C(C1)C(F)(F)F)CO | C8H6ClF3O
